US05932765
b) Ethyl 4-(2-aminoethyl)-2-chlorobenzoate
A mixture composed of 1.9 g (8.5 mmol) of ethyl 2-chloro-4-(cyanomethyl)benzoate, 0.5 g of Raney nickel in 70 ml of methanol containing a few ml of liquid ammonia is subjected to a hydrogen pressure of about 60 kg/cm2, at 50° C. for 5 h, and then at 80° C. for 4.5 h. After filtration of the reaction medium, 1.5 g of oil are obtained (Yield=77%).

reactant | ethyl 2-chloro-4-(cyanomethyl)benzoate | 8.5 mmol, 1.9 g | ClC1=C(C(=O)OCC)C=CC(=C1)CC#N | C11H10ClNO2
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 0.5 g | [Ni] | Ni
solvent | methanol | 70 ml | CO | CH4O
product | Ethyl 4-(2-aminoethyl)-2-chlorobenzoate | Yield=77% | NCCC1=CC(=C(C(=O)OCC)C=C1)Cl | C11H14ClNO2
